Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / I.V. contrast dye
 
Attending: ___
 
Chief Complaint:
Right sided numbness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
NIHSS Performed within 6 hours of presentation at: 1845 ___ 
Total: 1 1a. Level of Consciousness: 0 1b. LOC Question: 0 1c. 
LOC Commands: 0 2. Best gaze: 0 3. Visual fields: 0 4. Facial 
palsy: 0 5a. Motor arm, left: 0 5b. Motor arm, right: 0 6a. 
Motor leg, left: 0 6b. Motor leg, right: 0 7. Limb Ataxia: 0 8. 
Sensory: 1 9. Language: 0 10. Dysarthria: 0 11. Extinction and 
Neglect: 0 

REASON FOR CONSULTATION: R sided sensory loss, lightheadedness 
HPI: Mr. ___ is a ___ right-handed man with no 
significant medical history presenting to the ED after 
experiencing sudden lightheadedness and right-sided numbness 
which has persisted for two days.

He reports he was sitting calmly at work at 1730 on ___ 
when he suddenly felt lightheaded and euphoric, "like inhaling 
nitrous". He then noticed his right arm, right leg, and right 
face felt numb, with some tingling sensations as well. He 
describes feeling as if he has sand in his clothing when 
touched, and feels an after-effect of touch lingering for a few 
seconds. He first noticed the numbness in his hand, but believes 
all of these symptoms came on at approximately the same time. He 
had no vertigo, nausea/vomiting, vision changes, or difficulty 
speaking/swallowing. He feels he wasn't as coordinated using his 
right hand, but was able to lift objects and was able to walk 
without an issue. 

___ evening he went home hoping it would get better and was 
optimistic because he was still functional enough to ride his 
motorcycle, but upon waking in the morning ___ he 
decided to see a doctor. He was given an appointment for today, 
however before coming into the appointment he was advised to 
present to the ED. 

Of note, he also had an episode on ___ night ___ involving 
nausea and constipation followed by diarrhea which kept him from 
sleeping. The following night, he had a sensation of an itchy 
rash around his collar area, though his girlfriend did not see 
any rash. He has not had any recent travel, changes to his diet, 
or exposure to woody areas.

He was recently told he had high blood pressure at a doctor's 
visit for his sciatica (___), but has not followed up on 
this with his PCP. ROS: On neurological review of systems, the 
patient denies headache, confusion, difficulties producing or 
comprehending speech, loss of vision, blurred vision, diplopia, 
dysarthria, dysphagia, vertigo, tinnitus or hearing difficulty. 
No bowel or bladder incontinence or retention. Denies difficulty 
with gait. On general review of systems, the patient denies 
recent fever, chills, night sweats, or recent weight changes. 
Denies cough, shortness of breath, chest pain or tightness, 
palpitations. Denies dysuria, or recent change in bowel or 
bladder habits. Denies arthralgias, myalgias, or rash. 
 
Past Medical History:
-herniated disks s/p injection ___
-hypertension (recent)
-R sided sciatica
-chronic lower back pain
-hematuria, nephrolithiasis, renal mass
-pulmonary nodule
 
Social History:
Work: ___
Tobacco use:        Light tobacco smoker (Less than 10          
                    cigarettes per day)                         
Smoking cessation   Yes                                         
counseling offered:                                             
     # Packs/Day:    1                                          
     # Years Smoked: 30                                         
     Pack Years:    30                                          
drinks per week:    ___                                         


Alcohol use         one-two glasses of red wine with dinner 
every

comments:           night                                       
Recreational drugs  History of cocaine, marijuana in the ___, no
IVDU          (marijuana, heroin,                                


crack pills or                                                  
other):                                                         
Depression:         Based on a PHQ-2 evaluation, the patient    
                    does not report symptoms of depression
Diet:               Vegan  
 
Family History:
Father                DIABETES TYPE II                          
                      STROKE                                    
                      ALCOHOL ABUSE                             

Uncle                 LUNG CANCER                paternal       

Aunt                  COLON CANCER               maternal,      
                                                 diagnosed age  
                                                 ___   
 
Physical Exam:
Vitals: T: 98.3 HR: 76  BP: 200/110  RR: 16  SaO2: 100
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive to complex tasks. Language is
fluent with intact repetition and comprehension. Normal prosody.
There were no paraphasic errors. Able to name both high and low
frequency objects.  Able to read without difficulty. No
dysarthria. Able to follow both midline and appendicular
commands. Able to register 3 objects and recall ___ at 5 
minutes.
There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 3mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
grossly normal.
V: Facial sensation intact to light touch, decreased on right to
subjectively 90%. Dull with pinprick.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. Upward drift of right
arm. No adventitious movements, such as tremor or asterixis
noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: Decreased light touch and pinprick sensation 
throughout
right side of body. 60% at shoulder, 80% at arms and legs.
Describes lingering after-sensation on right side which lasts
less than a second after stimulus is removed. Vibration and
proprioception without deficit throughout. No extinction to DSS.
___ absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     1      1      1     1
R   2     1      2      1     1 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. Very mild dysmetria on FNF with R hand, HKS normal
bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Walks on toes
and heels without problem.

===============
DISCHARGE EXAM
Unchanged 
 
Pertinent Results:
___ 02:16PM BLOOD WBC-5.0 RBC-5.03 Hgb-15.6 Hct-46.5 MCV-92 
MCH-31.0 MCHC-33.5 RDW-13.0 RDWSD-43.8 Plt ___
___ 05:35AM BLOOD ___ PTT-30.0 ___
___ 05:35AM BLOOD D-Dimer-<215
___ 02:16PM BLOOD Glucose-102* UreaN-10 Creat-0.6 Na-139 
K-4.4 Cl-104 HCO3-23 AnGap-12
___ 05:35AM BLOOD Glucose-96 UreaN-16 Creat-0.7 Na-140 
K-5.0 Cl-103 HCO3-28 AnGap-9*
___ 05:35AM BLOOD ALT-18 AST-17 LD(LDH)-162 AlkPhos-72 
TotBili-0.5
___ 05:35AM BLOOD Albumin-4.3 Calcium-9.3 Phos-4.0 Mg-2.3
___ 02:57PM BLOOD %HbA1c-5.8 eAG-120
___ 02:16PM BLOOD Triglyc-193* HDL-36* CHOL/HD-4.1 
LDLcalc-71
___ 05:35AM BLOOD TSH-1.6
___ 05:35AM BLOOD CRP-3.8
___ 02:16PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 02:16PM BLOOD GreenHd-HOLD

IMAGING:
___ ___
IMPRESSION:  
No acute intracranial process. 

CXR ___
IMPRESSION:    
No acute cardiopulmonary abnormality. 

MR HEAD W/O CONTRAST; MRA NECK W&W/O CONTRAST; MRA BRAIN W/O 
CONTRAST ___
IMPRESSION: 
1.  Study is mildly degraded by motion. 
2. Left thalamic acute to subacute infarct without definite 
evidence of hemorrhagic transformation. 
3. No evidence of intracranial hemorrhage. 
4. Question atherosclerotic changes of circle of ___ as 
described versus artifact. 
5. Otherwise, grossly patent circle of ___ without definite 
evidence of stenosis,occlusion,or aneurysm. 
6. Grossly patent bilateral cervical carotid and vertebral 
arteries without definite evidence of stenosis, occlusion, or 
dissection. 

TTE ___
IMPRESSION: Suboptimal image quality. No obvious structural 
cardiac source of embolism (e.g.patent foramen ovale/atrial 
septal defect, intracardiac thrombus, or vegetation) seen.
 
Brief Hospital Course:
___ with PMH newly diagnoses HTN and left renal mass presented 
with right-sided numbness and found to have left thalamic 
infarct.

#Left thalamic stroke
Pure sensory deficit on the right side lasting multiple days 
most consistent with thalamic stroke, confirmed on MRI. Most 
likely etiology is small vessel disease given his hypertension 
and smoking history. No arrhythmias and no obvious cardiogenic 
etiologies identified on TTE. Hypercoagulability is a 
possibility in setting of renal mass, which is suspicious for 
___. Risk factor labs show HBA1c 5.8%, LDL 71. He was started on 
atorvastatin 40mg daily given likely etiology is small vessel. 
ASA 81mg daily and additionally plavix 75mg daily for 3 weeks 
per POINT trial. 
 
#Hypertension  
Noted in multiple past encounter notes, but never formally 
followed up and not currently on any antihypertensives. Allowed 
for permissive hypertension s/p stroke. Note of possible 
anterior ST elevations on ECG in ED, likely i/s/o hypertension 
and stress. Trops negative, TTE with EF of 70%. He was started 
on amlodipine 5mg on discharge. 

#Concern for malignancy
Mass on upper pole of left kidney first noticed on ___ CT 
A&P, seemingly lost to follow up. Last imaged ___, stable 
in size. Also able to be visualized on ___ MRI L-spine, 
but not commented on by radiology. Concern for renal cell 
carcinoma, but lost to follow up. Kidney function normal, 
baseline Cr 0.6. Also has multiple scattered pulmonary nodules 
noted on CT Chest ___, <6cm. Concerning i/s/o 30 
pack-year history. Possibility of malignancy also concerning in 
light of this recent stroke as hypercoagulability could be 
contributing factor. CT torso showed no new metastasis and just 
the stable L renal mass which was stable in size from ___. He 
also had stable pulmonary nodules that had not increased in 
size. 

# Psychiatric/Behavioral
Initially, patient had some difficulty coping with this new 
diagnosis and possibility of malignancy, which improved over 
time. His service dog assisted in his coping.

TRANSITIONAL ISSUES:
-F/u with PCP regarding HTN regimen, please have them see you 
this week
-F/u with urology regarding renal mass
-Stroke neurology appointment scheduled for ___
-Take aspirin AND Plavix. Plavix should be discontinued after 21 
days, then remain on aspirin 81mg daily indefinitely 

=================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 71) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (x) No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A  
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. cyclobenzaprine 10 mg oral TID:PRN sciatica 
2. etodolac 500 mg oral Q12H:PRN sciatic pain 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
4.  cyclobenzaprine 10 mg oral TID:PRN sciatica  
5.  etodolac 500 mg oral Q12H:PRN sciatic pain  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left thalamic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
  
You were hospitalized due to symptoms of right-sided weakness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 1) High blood pressure
 2) Smoking history
 3) High cholesterol

We are changing your medications as follows:  
 Aspirin 81mg daily
 Atorvastatin 40mg every evening
 Clopidogrel 75mg daily (take this only for 3 weeks then stop)

Please take your other medications as prescribed.  

Please follow up with Neurology and your primary care physician 
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  
 Your ___ Neurology Team  
 
Followup Instructions:
___